US07238716B2
A mixture of methyl [3-chloro-4-[(dimethylamino)carbonylthio]phenyl]acetate (0.80 g), a 28% solution of sodium methoxide in methanol (0.75 g) and methanol (20 mL) was stirred with heating under reflux for 2 hrs. 4-(3-Chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (0.87 g) was added to the reaction mixture at room temperature and the mixture was further stirred for 12 hrs. The reaction mixture was poured into 0.1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 2-[3-chloro-4-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]acetate as a colorless oil (0.48 g, yield 35%), from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | methyl [3-chloro-4-[(dimethylamino)carbonylthio]phenyl]acetate | 0.80 g | ClC=1C=C(C=CC1SC(=O)N(C)C)CC(=O)OC | C12H14ClNO3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-(3-Chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 0.87 g | ClCC=1C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=CC1 | C18H16ClNO2
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | methanol | 0.75 g | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | methyl 2-[3-chloro-4-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]acetate | 0.48 g, yield 35% | ClC=1C=C(C=CC1SCC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)CC(=O)OC | C27H24ClNO4S
